US06576656B1
(1) 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2,5-dichlorophenyl)oxindole
The title compound (137 mg, 51%) was prepared from 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin (200 mg, 0.454 mmol) and 2,5-dichlorobromobenzene by the procedure similar to that described Example 92(1).

reactant | 1-(2-diethylaminoethyl)-4-trifluoromethyl-6-iodoisatin | 0.454 mmol, 200 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=C(C=C12)I)C(F)(F)F)CC | C15H16F3IN2O2
reactant | 2,5-dichlorobromobenzene | ClC1=C(C=C(C=C1)Cl)Br | C6H3BrCl2
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-6-iodo-3-hydroxy-3-(2,5-dichlorophenyl)oxindole | 137 mg, 51% | C(C)N(CCN1C(C(C2=C(C=C(C=C12)I)C(F)(F)F)(C1=C(C=CC(=C1)Cl)Cl)O)=O)CC | C21H20Cl2F3IN2O2
